US06635657B1
B. 4-(4-tert-Butylbenzoylamino)isophthalic Acid
Into 60 mL acetone was dissolved 0.905 g (5 mmol) 4-aminoisophthalic acid. To the solution was added 30 mL water. The mixture was cooled in an ice bath, and 1.08 mL (5.5 mmol) 4-tert-butylbenzoyl chloride in 10 mL acetone was added dropwise. The mixture was allowed to warm slowlyly to room temperature and after 24 h was concentrated under vacuum and shaken between EtOAc (150 mL) and cold dilute HCl (150 mL). The organic layer was dried (MgSO4) and evaporated. The desired crystalline product (0.489 g, 29%) was obtained from methylene chloride-hexane.

reactant | 4-aminoisophthalic acid | 5 mmol, 0.905 g | NC1=C(C=C(C(=O)O)C=C1)C(=O)O | C8H7NO4
reactant | water | 30 mL | O | H2O
reactant | 4-tert-butylbenzoyl chloride | 5.5 mmol, 1.08 mL | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | 4-(4-tert-Butylbenzoylamino)isophthalic Acid | 0.489 g, 29% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C=C(C(=O)O)C=C2)C(=O)O)C=C1 | C19H19NO5
